// Generated for: spectre
// Generated on: Sep  2 17:34:41 2024
// Design library name: LDO_Haoqiang
// Design cell name: tb_PSR
// Design view name: schematic
simulator lang=spectre
global 0
parameters cpp=30p iload=50m ibias C0 C1 C2 C3 C4 C8 R0
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=ldmos_tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=bjt_tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=dio_tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=res_tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=var_tt
include "/data/PDK/pdk_installed/smic55/smic55ll_ulp_09121825_1P7M_6Ic_1TMc_ALPA1_oa_cds_v1.16_2/smic55ll_121825_1tm/../models/spectre/l0055ll_v1p16_spe.lib" section=mom_tt

// Library name: LDO_Haoqiang
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core IBIAS VBODY VF1 VF2 VFB_FFRC VH VIN VOUT VOUT_MIR VREF \
        VSET VSET_FB VSS
    M47 (V2_FFRC net077 VIN VIN) p12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M46 (net077 net077 VIN VIN) p12ll w=480n l=1u nf=4 as=60f ad=45.6f \
        ps=1.72u pd=1.24u nrs=197.917m nrd=197.917m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=1
    M42 (net068 net068 VOUT VOUT) p12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M41 (net069 net068 net0102 net0102) p12ll w=720n l=1u nf=6 as=82.8f \
        ad=68.4f ps=2.34u pd=1.86u nrs=131.944m nrd=131.944m sa=155n \
        sb=155n sd=190n sca=0 scb=0 scc=0 m=1
    M27 (net066 net066 VIN VIN) p12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M26 (VG_FFRC net066 VIN VIN) p12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M25 (V1_FFRC VG_FFRC VIN VIN) p12ll w=120n l=400n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M24 (V2_FFRC V2_FFRC VIN VIN) p12ll w=120n l=1.4u nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M23 (V3_SSF V2_FFRC VBODY VBODY) p12ll w=360n l=100n nf=3 as=41.4f \
        ad=41.4f ps=1.17u pd=1.17u nrs=263.889m nrd=263.889m sa=155n \
        sb=155n sd=190n sca=0 scb=0 scc=0 m=1
    M19 (VOUT_MIR VG_VSET VIN VIN) p12ll w=240n l=350n nf=2 as=37.2f \
        ad=22.8f ps=1.1u pd=620n nrs=395.833m nrd=395.833m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=1
    M22 (VBODY net090 VIN VIN) p12ll w=600n l=1u nf=5 as=64.2f ad=64.2f \
        ps=1.79u pd=1.79u nrs=158.333m nrd=158.333m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=1
    M15 (VG_VSET net054 VIN VIN) p12ll w=120n l=500n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M14 (net054 net054 VIN VIN) p12ll w=120n l=500n nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M6 (VSET VSET VOUT_MIR VOUT_MIR) p12ll w=120n l=300n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M21 (net090 net090 VIN VIN) p12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M1 (VF1 VSET VOUT VOUT) p12ll w=480n l=300n nf=4 as=60f ad=45.6f \
        ps=1.72u pd=1.24u nrs=197.917m nrd=197.917m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=1
    M36 (net092 IBIAS VSS VSS) n25ll w=210n l=1u nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M35 (net067 IB_FFRC VSS VSS) n25ll w=420n l=1u nf=2 as=81.9f ad=56.7f \
        ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n sb=195n sd=270n \
        sca=0 scb=0 scc=0 m=1
    M34 (net090 IB_FFRC VSS VSS) n25ll w=420n l=1u nf=2 as=81.9f ad=56.7f \
        ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n sb=195n sd=270n \
        sca=0 scb=0 scc=0 m=1
    M13 (V3_SSF IB_FFRC VSS VSS) n25ll w=1.05u l=1u nf=5 as=154.35f \
        ad=154.35f ps=2.73u pd=2.73u nrs=128.571m nrd=128.571m sa=195n \
        sb=195n sd=270n sca=0 scb=0 scc=0 m=1
    M33 (IB_FFRC IB_FFRC VSS VSS) n25ll w=210n l=1u nf=1 as=40.95f \
        ad=40.95f ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n \
        sb=195n sd=0 sca=0 scb=0 scc=0 m=1
    M32 (VG_FFRC VFB_FFRC net067 VSS) n25ll w=420n l=2u nf=2 as=81.9f \
        ad=56.7f ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n \
        sb=195n sd=270n sca=0 scb=0 scc=0 m=1
    M31 (net066 VREF net067 VSS) n25ll w=420n l=2u nf=2 as=81.9f ad=56.7f \
        ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n sb=195n sd=270n \
        sca=0 scb=0 scc=0 m=1
    M20 (net053 IBIAS VSS VSS) n25ll w=420n l=1u nf=2 as=81.9f ad=56.7f \
        ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n sb=195n sd=270n \
        sca=0 scb=0 scc=0 m=1
    M18 (VSET IBIAS VSS VSS) n25ll w=210n l=1u nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M11 (IBIAS IBIAS VSS VSS) n25ll w=210n l=1u nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M10 (net25 IBIAS VSS VSS) n25ll w=210n l=1u nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M8 (VF3 VREF VF2 VSS) n25ll w=210n l=280n nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M7 (VF2 IBIAS VSS VSS) n25ll w=840n l=1u nf=4 as=138.6f ad=113.4f \
        ps=2.58u pd=1.92u nrs=160.714m nrd=160.714m sa=195n sb=195n \
        sd=270n sca=0 scb=0 scc=0 m=1
    M12 (VG VF2 VSS VSS) n25ll w=210n l=280n nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M4 (VG IBIAS VSS VSS) n25ll w=420n l=1u nf=2 as=81.9f ad=56.7f \
        ps=1.62u pd=960n nrs=321.429m nrd=321.429m sa=195n sb=195n sd=270n \
        sca=0 scb=0 scc=0 m=1
    M2 (VF1 IBIAS VSS VSS) n25ll w=840n l=1u nf=4 as=138.6f ad=113.4f \
        ps=2.58u pd=1.92u nrs=160.714m nrd=160.714m sa=195n sb=195n \
        sd=270n sca=0 scb=0 scc=0 m=1
    R0 (VG net43) resistor r=R0
    C8 (V2_FFRC VSS) capacitor c=C8
    C4 (VG_FFRC VSS) capacitor c=C4
    C2 (VOUT_MIR VSS) capacitor c=C2
    C3 (VSET VSS) capacitor c=C3
    C0 (net43 VSS) capacitor c=C0
    C1 (VIN V1_FFRC) capacitor c=C1
    M40 (VIN VG net0102 net0102) nlvt12ll w=120n l=60n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M0 (VIN VG VOUT VBODY) nlvt12ll_power w=1.8u l=60n nf=15 as=178.2f ad=178.2f \
        ps=4.89u pd=4.89u nrs=52.7778m nrd=52.7778m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=20
    M38 (IB_FFRC net092 VIN VIN) p25ll w=210n l=500n nf=1 as=40.95f \
        ad=40.95f ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n \
        sb=195n sd=0 sca=0 scb=0 scc=0 m=1
    M37 (net092 net092 VIN VIN) p25ll w=210n l=500n nf=1 as=40.95f \
        ad=40.95f ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n \
        sb=195n sd=0 sca=0 scb=0 scc=0 m=1
    M9 (net25 net25 VH VH) p25ll w=210n l=500n nf=1 as=40.95f ad=40.95f \
        ps=810n pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M5 (VG VF3 VH VH) p25ll w=210n l=280n nf=1 as=40.95f ad=40.95f ps=810n \
        pd=810n nrs=642.857m nrd=642.857m sa=195n sb=195n sd=0 sca=0 scb=0 \
        scc=0 m=1
    M3 (VF3 net25 VH VH) p25ll w=840n l=500n nf=4 as=138.6f ad=113.4f \
        ps=2.58u pd=1.92u nrs=160.714m nrd=160.714m sa=195n sb=195n \
        sd=270n sca=0 scb=0 scc=0 m=1
    M43 (net068 net069 VSS VSS) n12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M44 (net069 net069 VSS VSS) n12ll w=720n l=1u nf=6 as=82.8f ad=68.4f \
        ps=2.34u pd=1.86u nrs=131.944m nrd=131.944m sa=155n sb=155n \
        sd=190n sca=0 scb=0 scc=0 m=1
    M30 (V1_FFRC V1_FFRC VSS VSS) n12ll w=120n l=400n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M29 (V2_FFRC V1_FFRC VSS VSS) n12ll w=120n l=400n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M28 (VBODY V3_SSF VSS VSS) n12ll w=120n l=60n nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
    M17 (VG_VSET VREF net053 VSS) n12ll w=120n l=800n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M16 (net054 VSET_FB net053 VSS) n12ll w=120n l=800n nf=1 as=18.6f \
        ad=18.6f ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n \
        sd=0 sca=0 scb=0 scc=0 m=1
    M45 (net077 net069 VSS VSS) n12ll w=120n l=1u nf=1 as=18.6f ad=18.6f \
        ps=550n pd=550n nrs=791.667m nrd=791.667m sa=155n sb=155n sd=0 \
        sca=0 scb=0 scc=0 m=1
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_Haoqiang
// Cell name: tb_PSR
// View name: schematic
I0 (net6 VBODY net017 net05 net016 VH VIN net014 VOUT_MIR VREF VSET net015 \
        VSS) LDO_Core
V4 (VSS 0) vsource dc=0 type=dc
V3 (VH VSS) vsource dc=2 type=dc
V1 (VREF VSS) vsource dc=1 type=dc
V0 (VIN VSS) vsource dc=1.2 mag=1 type=dc
I3 (VOUT VSS) isource dc=iload type=dc
I2 (VIN net6) isource dc=ibias type=dc
IPRB1 (net015 VOUT_MIR) iprobe
IPRB0 (net05 net017) iprobe
IPRB2 (net016 VBODY) iprobe
R0 (net014 VOUT) resistor r=0
C0 (VOUT VSS) capacitor c=cpp
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=1 stop=1G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
